US09278973B2
Step 2. 2-(2-Chlorobenzoyl)hydrazinecarboximidamide
A mixture of 2-chlorobenzoyl chloride (10 g, 60 mmol, 1.00 equiv) and hydrazinecarboximidamide carbonic acid salt (11.6 g, 85 mmol, 1.49 equiv) in pyridine (10 mL) and dichloromethane (100 g, 1.18 mol, 41.21 equiv) was stirred for 3 h at 25° C. After the reaction was completed, the resulting mixture was concentrated under vacuum. The residue was purified via silica gel column (ethyl acetate/petroleum ether (10/1)) resulting in 3 g (22%) of 2-(2-chlorobenzoyl)hydrazinecarboximidamide as yellow oil.

reactant | 2-chlorobenzoyl chloride | 60 mmol, 10 g, 1.00 equiv | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | hydrazinecarboximidamide carbonic acid salt | 85 mmol, 11.6 g, 1.49 equiv | C(O)(O)=O.N(N)C(N)=N
reactant | dichloromethane | 1.18 mol, 100 g, 41.21 equiv | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-Chlorobenzoyl)hydrazinecarboximidamide | ClC1=C(C(=O)NNC(N)=N)C=CC=C1 | C8H9ClN4O
